US07863450B2
A mixture of methyl N-[4-(3-piperidin-1-ylpropoxy)benzoyl]serinate ax37 (0.922 g, 2.54 mmol, 1 eq) and (diethylamino)sulfur trifluoride (0.34 ml, 2.78 mmol, 1.1 eq) in dichloromethane (25 ml) is stirred under argon at room temperature for 3.5 h before addition of potassium carbonate (0.35 g, 2.53 mmol, 1 eq). The mixture is stirred for a further 1 h and washed with a saturated solution of potassium hydrogencarbonate and the aqueous layer is extracted with dichloromethane. The organic layers are then dried over magnesium sulfate and concentrated under vacuum to give methyl 2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4,5-dihydro-1,3-oxazole-4-carboxylate ax45 as an orange oil (1.036 g) which is used without further purification.

reactant | methyl N-[4-(3-piperidin-1-ylpropoxy)benzoyl]serinate | N1(CCCCC1)CCCOC1=CC=C(C(=O)N[C@@H](CO)C(=O)OC)C=C1 | C19H28N2O5
reactant | (diethylamino)sulfur trifluoride | 2.78 mmol, 0.34 ml, 1.1 eq | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | potassium carbonate | 2.53 mmol, 0.35 g, 1 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl 2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4,5-dihydro-1,3-oxazole-4-carboxylate | N1(CCCCC1)CCCOC1=CC=C(C=C1)C=1OCC(N1)C(=O)OC | C19H26N2O4
